US05972975
Step E: 2-Amino-5-ethynyl-4-methyl-pyridine
A suspension of 5-ethynyl-4-methyl-2-(trimethylacetylamino)-pyridine (50 mg, 0.23 mmol) in 2N sodium hydroxide (1.0 mL) was heated at 90° C. for 18 h. The reaction mixture was cooled to room temperature, extracted with chloroform, dried (Na2SO4), and evaporated to give a tan solid. The title compound was purified by silica gel chromatography using 1% methanol/methylene chloride as eluant.

reactant | 5-ethynyl-4-methyl-2-(trimethylacetylamino)-pyridine | 0.23 mmol, 50 mg | C(#C)C=1C(=CC(=NC1)NC(C(C)(C)C)=O)C | C13H16N2O
solvent | sodium hydroxide | 2N, 1.0 mL | [OH-].[Na+]
product | 2-Amino-5-ethynyl-4-methyl-pyridine | NC1=NC=C(C(=C1)C)C#C | C8H8N2
